US04968702
3-Amino-6-fluoro-2-[4-(3-pvridinyl)-phenyl]-4-quinolinecarboxylic acid methyl ester
To a degassed solution of 0.39 g of 3-amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid methyl ester and 0.035 g of tetrakis(triphenylphosphine) palladium in 10 ml of tetrahydrofuran and 10 ml toluene was added 1.0 ml of 2M aqueous sodium carbonate followed by a solution of 0.148 g of 3-pyridine boronic acid in 2 ml of ethanol. The mixture was stirred at reflux under argon for 5 hours and then cooled to 20° C. Two drops of 30% hydrogen peroxide were added and the mixture stirred for 30 minutes. The reaction mixture was partitioned between water and methylene chloride The organic layers were washed with water and dried over sodium sulfate. The volatiles were removed in vacuo, giving a tan powder. The crude product was purified via silica gel chromatography using toluene/acetone/methanol 78:20:2 as the eluent. The desired compound was obtained as yellow crystals (0.132g), mp 178°-183° C.

reactant | 3-amino-6-fluoro-2-(4-iodophenyl)-4-quinolinecarboxylic acid methyl ester | 0.39 g | COC(=O)C1=C(C(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)I)N | C17H12FIN2O2
reactant | sodium carbonate | 2M, 1.0 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-pyridine boronic acid | 0.148 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 2 ml | C(C)O | C2H6O
catalyst | hydrogen peroxide | Two drops | OO | H2O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.035 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-Amino-6-fluoro-2-[4-(3-pvridinyl)-phenyl]-4-quinolinecarboxylic acid methyl ester | COC(=O)C1=C(C(=NC2=CC=C(C=C12)F)C1=CC=C(C=C1)C=1C=NC=CC1)N | C22H16FN3O2
